US06432993B1
2,6-Dimethyl-4-pivaloyloxyphenol
By using 6.90 g of 2,6-dimethylbenzene-1,4-diol, 6.63 g of pivaloyl chloride, 11.85 g of pyridine and 60 ml of dichloromethane, reaction and purification were carried out in a similar manner to that described in Reference Example 9, whereby 6.77 g of the title compound were obtained.

reactant | 2,6-dimethylbenzene-1,4-diol | 6.90 g | CC1=C(C(=CC(=C1)O)C)O | C8H10O2
reactant | pivaloyl chloride | 6.63 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | pyridine | 11.85 g | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | 2,6-Dimethyl-4-pivaloyloxyphenol | 6.77 g | CC1=C(C(=CC(=C1)OC(C(C)(C)C)=O)C)O | C13H18O3
